US07589088B2
Step 2. Methyl 4-(2,4-dichlorophenyl)-6-methyl-2-phenyl-1,4-dihydropyrimidine-5-carboxylate
To a stirred solution of methyl 2-(2,4-dichlorobenzylidene)-3-oxobutanoate (480 mg, 1.8 mmol) and benzamidine HCl salt (275 mg, 1.8 mmol) in DMF (6 mL) was added NaOAc (144 mg, 1.8 mmol). The reaction was heated to 60° C. for 3 days and was quenched by 1N HCl (10 mL). The reaction was diluted with EtOAc (10 mL) and the organic layer was washed with 1N HCl, saturated NH4Cl solution (10 mL) and brine (10 mL), dried (MgSO4), filtered and concentrated under reduced pressure to give the crude product as a yellow oil (600 mg). The crude reaction product was moved onto next step without further purification.

reactant | methyl 2-(2,4-dichlorobenzylidene)-3-oxobutanoate | 1.8 mmol, 480 mg | ClC1=C(C=C(C(=O)OC)C(C)=O)C=CC(=C1)Cl | C12H10Cl2O3
reactant | benzamidine HCl salt | 1.8 mmol, 275 mg | Cl.C(C1=CC=CC=C1)(=N)N
reactant | NaOAc | 1.8 mmol, 144 mg | CC(=O)[O-].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | Methyl 4-(2,4-dichlorophenyl)-6-methyl-2-phenyl-1,4-dihydropyrimidine-5-carboxylate | 600 mg | ClC1=C(C=CC(=C1)Cl)C1N=C(NC(=C1C(=O)OC)C)C1=CC=CC=C1 | C19H16Cl2N2O2
